* SpiceNetList
* 
* Exported from Two_transistor_oscillator.sch at 2022/08/13 8:40
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R3 VCQ2 VIN 3.3k 
R_R2 0 N_1 10k 
R_R1 N_1 VIN 10k 
R_R6 VOUT VIN 1.5k 
R_R4 0 N_3 4.7k 
Q_Q2 VOUT VCQ2 N_4 2N2222A 
V_V1 VIN 0 6V 
C_C1 N_3 N_4 1.5n IC=1V 
Q_Q1 VCQ2 N_1 N_3 2N2222A 
R_R5 0 N_4 4.7k 

* --------- models ---------

* model file: /home/irfan/Desktop/eagle-projects/osc/2N2222A.mdl
* from https://www.eevblog.com
.model 2N2222A NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5 BR=3 CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30)


* --------- simulation ---------
.print DC V(VCQ2) V(VOUT) V(VIN) I(V_V1)
.print AC V(VCQ2) V(VOUT) V(VIN) I(V_V1)
.print TRAN V(VCQ2) V(VOUT) V(VIN) I(V_V1)
.END










